US04585768
1.52 g of (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 1.24 g of benzyloxycarbonyl chloride and 18 ml of benzene are treated in the same manner as described in Example 4-(2), whereby 1.64 g of (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as an oil.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.52 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)CC1=CC=CC=C1)C=CC(=C2)Cl | C28H29ClN2O4S
reactant | benzyloxycarbonyl chloride | 1.24 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | benzene | 18 ml | C1=CC=CC=C1 | C6H6
product | (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.64 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)Cl | C29H29ClN2O6S
